US07459451B2
A mixture of [4-(5-chloro-2-thienyl)-1-ethyl-6-isopropyl-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol (2.526 g), activated manganese dioxide (13.1 g) in tetrachloromethane (50 ml) was refluxed for 12 hours. Another activated manganese dioxide (26.1 g) was added and the mixture was refluxed for 10 hours. After cooling, the mixture was filtered through celite and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with a mixture of EtOAc and n-hexane (1:20) to give 4-(5-chloro-2-thienyl)-1-ethyl-6-isopropyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde (1.4 g) as a yellow crystal.

reactant | [4-(5-chloro-2-thienyl)-1-ethyl-6-isopropyl-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol | 2.526 g | ClC1=CC=C(S1)C1=C2C(=NC(=C1CO)C(C)C)N(N=C2)CC | C16H18ClN3OS
solvent | tetrachloromethane | 50 ml | ClC(Cl)(Cl)Cl | CCl4
catalyst | manganese dioxide | 13.1 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 26.1 g | [O-2].[O-2].[Mn+4]
product | 4-(5-chloro-2-thienyl)-1-ethyl-6-isopropyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde | 1.4 g | ClC1=CC=C(S1)C1=C2C(=NC(=C1C=O)C(C)C)N(N=C2)CC | C16H16ClN3OS
